US06197729B1
c) 4-(2,2-difluoro-1-methylethyl)phenol
24.8 g (0.13 mol) of 1-(2,2-difluoro-1-methylethyl)-4-methoxybenzene were stirred in 350 ml of glacial acetic acid and heated under reflux. 67 g of 48% aqueous hydrobromic acid were subsequently added dropwise and the mixture was stirred under reflux for a further 5 h. After cooling to room temperature, the solvent was distilled off under reduced pressure and the residue was taken up in ethyl acetate, washed with aqueous sodium hydrogen carbonate dried and concentrated to give the title product as a colourless oil which was reacted further without any purification.

reactant | 1-(2,2-difluoro-1-methylethyl)-4-methoxybenzene | 0.13 mol, 24.8 g | FC(C(C)C1=CC=C(C=C1)OC)F | C10H12F2O
reactant | hydrobromic acid | 67 g | Br | BrH
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 4-(2,2-difluoro-1-methylethyl)phenol | FC(C(C)C1=CC=C(C=C1)O)F | C9H10F2O
